US06476041B1
A solution of 2 g of 4-(4-chloro-benzylidene)-piperidine-1-carboxylic acid tert-butyl ester and 0.5 g of 5% platinum on carbon in 10 mL of ethanol was allowed to stir overnight under 1 atm of hydrogen. The catalyst was filtered off and, the solution concentrated to give 2 g of 4-(4-chloro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester as an oil.

reactant | 4-(4-chloro-benzylidene)-piperidine-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC=C(C=C1)Cl | C17H22ClNO2
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 0.5 g | [Pt] | Pt
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(4-chloro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)Cl | C17H24ClNO2
